US06797726B1
In 40 mL of methylene chloride is suspended 4.00 g of 6-fluoro-7-methoxybenzo[b]thiophene-5-carboxylic acid, to which is added 1.55 mL of thionyl chloride. The mixture is heated under reflux for 2 hours. The reaction mixture is concentrated under reduced pressure, and the residue is dissolved in 40 mL of methylene chloride. At an ice-cooled temperature, 200 mL of 0.5 mol/L solution of diazomethane in diethyl ether is added to the solution obtained above, and the mixture thus formed is stirred at ambient temperature for one hour. Then, 6.1 mL of acetic acid is added to the reaction mixture, and the mixture is stirred at ambient temperature for 10 minutes. Then, water and ethyl acetate are added, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is suspended in 40 mL of methanol, a mixture of 2.03 g of silver benzoate and 17.3 mL of triethylamine is added at 5° C., and the mixture thus formed is stirred at ambient temperature for one hour. Water and ethyl acetate are added to the reaction mixture, pH is adjusted to 1 with 6 mol/L hydrochloric acid, the insoluble matter is filtered off, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue thus obtained is purified by column chromatography (eluent: hexane:ethyl acetate=5:1) to obtain 3.87 g of methyl 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-acetate.

reactant | 6-fluoro-7-methoxybenzo[b]thiophene-5-carboxylic acid | 4.00 g | FC=1C(=CC2=C(SC=C2)C1OC)C(=O)O | C10H7FO3S
reactant | thionyl chloride | 1.55 mL | S(=O)(Cl)Cl | Cl2OS
reactant | acetic acid | 6.1 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | methyl 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-acetate | 3.87 g | FC=1C(=CC2=C(SC=C2)C1OC)CC(=O)OC | C12H11FO3S
